### PR TITLE
[Merged by Bors] - chore(OreLocalization): clean up `backward.privateInPublic`

### PR DESCRIPTION
**Pull request by thorimur**
1. Refactors `OreLocalization.smul` to use `let`s instead of private declarations. (Inlines a private def in the type of a private theorem as well.)
2. `private`s the fields of `LocalizedModule.moduleOfIsLocalization`. (`@[no_expose]`ing breaks things later in the file, since the field bodies would still be private in that case.)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by thorimur** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/5a1506ea8a8ada22b615e516520b277e081780ec?reference=87adeaebd370a3b6a41ac4f044fddd4bf81803ad) for 5a1506ea8a8ada22b615e516520b277e081780ec against 87adeaebd370a3b6a41ac4f044fddd4bf81803ad are in. No significant results found. @thorimur

- ✅ `build//instructions`: **-721.4M** (**-0.00%**)

No significant changes detected.

File: Mathlib/GroupTheory/OreLocalization/Basic.lean [hunk 1]
```diff
@@ -299,29 +291,27 @@ instance : Mul R[S⁻¹] :=
...
+    (r₁ /ₒ s₁) * (r₂ /ₒ s₂) = oreNum r₁ s₂ * r₂ /ₒ (oreDenom r₁ s₂ * s₁) := rfl
 
 /-- A characterization lemma for the scalar multiplication on the Ore localization,
 allowing for a choice of Ore numerator and Ore denominator. -/
 @[to_additive /-- A characterization lemma for the vector addition on the Ore localization,
 allowing for a choice of Ore minuend and Ore subtrahend. -/]
 theorem oreDiv_smul_char (r₁ : R) (r₂ : X) (s₁ s₂ : S) (r' : R) (s' : S) (huv : s' * r₁ = r' * s₂) :
     (r₁ /ₒ s₁) • (r₂ /ₒ s₂) = r' • r₂ /ₒ (s' * s₁) := by
-  with_unfolding_all exact smul'_char r₁ r₂ s₁ s₂ s' r' huv
+  exact smul'_char r₁ r₂ s₁ s₂ s' r' huv
```
Comment (jcommelin) [inline Mathlib/GroupTheory/OreLocalization/Basic.lean]: Do you want to leave a TODO that this `by exact` can be cleaned up once there is a `%private` term elab, or something like that?

File: Mathlib/GroupTheory/OreLocalization/Basic.lean [hunk 2]
```diff
@@ -299,29 +291,27 @@ instance : Mul R[S⁻¹] :=
...
 
 /-- A characterization lemma for the multiplication on the Ore localization, allowing for a choice
 of Ore numerator and Ore denominator. -/
 @[to_additive /-- A characterization lemma for the addition on the Ore localization,
 allowing for a choice of Ore minuend and Ore subtrahend. -/]
 theorem oreDiv_mul_char (r₁ r₂ : R) (s₁ s₂ : S) (r' : R) (s' : S) (huv : s' * r₁ = r' * s₂) :
     r₁ /ₒ s₁ * (r₂ /ₒ s₂) = r' * r₂ /ₒ (s' * s₁) := by
-  with_unfolding_all exact smul'_char r₁ r₂ s₁ s₂ s' r' huv
+  exact smul'_char r₁ r₂ s₁ s₂ s' r' huv
```
Comment (jcommelin) [inline Mathlib/GroupTheory/OreLocalization/Basic.lean]: Idem dito

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors d+

File: Mathlib/GroupTheory/OreLocalization/Basic.lean (hunk 1 above)
Comment (thorimur) [reply Mathlib/GroupTheory/OreLocalization/Basic.lean]: Oops, actually, I'm not sure why I left these as `by exact`; theorem bodies are already private and treated as such, so the `by exact` is now unnecessary, and I've removed it 🙃
